Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Acute pancreatitis
 
Major Surgical or Invasive Procedure:
Intubation at an outside hospital
ERCP with sphincterotomy

 
History of Present Illness:
The patient is a ___ year-old female with a history of 
hypothyroidism, who presents with severe epigastric pain.  The 
patient was in her usual state of good health until 3pm on the 
day of admission (___), when she developed rapid-onset sweating 
and ___ constant (non-fluctuating) epigastric pain that 
radiated to her back.  Coincident with the onset of pain, she 
reports new-onset nausea, with 1 episode of non-bloody vomiting. 
 The patient reports a chronic alcohol intake of ___ drinks per 
day.  She denies previous episodes of abdominal pain, history of 
hyperlipidemia, history of discolored urine, recent flu-like 
illness, or abdominal trauma.  Due to the severity of the pain, 
the patient was immediately driven by her husband to ___ 
___.
  
At ___ (___), the patient had Hb 16, lipase >3000, K 
2.8, undetectable EtOH.  CIWA score was less than 4.  ___ 
score was 0 on admission.  She received IV fluids, folate, 
multivitamin injection, and thiamine.  A CT of the 
abdomen/pelvis revealed a ___ fluid collection, with 
fat stranding and a 4 cm calcified focus near the ampula of 
vater.  MRCP was obtained, showing no ductal dilation and no 
gallstones.  On ___, a CXR showed a LLL opacity, and the 
patient was started on levo/ceftriaxone.  The patient developed 
fever, change in mental status, hypoxia, and tachypnea leading 
to intubation, which was complicated by aspiration during the 
intubation procedure (ABG post-intubation on ___ was 
7.39/34/102). Aspiration from OG tube revealed coffee-ground 
emesis after intubation.  She was transfered to ___ on ___ for 
further care and evaluation.  
   
ROS: 1 month prior to presentation, patient reports diffuse rash 
on the torso (sparing arms/legs) composed of 1 mm red, intensely 
itchy papules.  Patient reports new bluriness of vision within 
the past 2 weeks, which is partially corrected by corrective 
lenses.  Review of systems was otherwise negative except as 
specified in the HPI (patient denies recent constipation, 
changes in hearing, tingling/ numbness/weakness, coughing of 
blood, hematuria, dysuria, blood in the stool, or easy 
bleeding).  

 
Past Medical History:
Hypothyroidism 
 
Social History:
___
Family History:
Patient's mother: CVA
Patient's father: DM, HTN, alcoholism (pt.'s father "died of 
alcoholism")
Patient's 2 brothers: alcoholism
 
Physical ___:
VITALS: T 100.7, BP 120/70, HR 80, RR 16, Sat 93% (RA)  
General: Patient is comfortable and conversational, nontoxic, in 
no apparent distress.  Mild confusion in fact finding/verbal 
response. 
Skin: Warm and well perfused. Few ___ small skin-colored 1mm 
papules on left side of abdomen.  No petechiae/ecchymoses. No 
jaundice.
HEENT: Sclera anicteric. Oral mucosa pink. Dentition intact.  
Trachea midline. Neck supple. Thyroid non-enlarged. 
Pulmonary: Breath sounds diminished bilaterally at bases, 
extending up 20-30 cm from base on left, and 10 cm from base on 
right.  Positive egophony noted bilaterally, with transition at 
the levels of diminished breath sounds (described above).  
Slight dullness to percussion, with transition at same levels.  
No rales/wheezes/rhonchi. 
Cardiac: Regular rate and rhythm. No m/r/g.  PMI was firmly 
tapping, quarter-sized, located btwn ___ intercostal space 
along midclavicular line.  
Lymphatic: No cervical or supraclavicular lymphadenopathy. 
GI: +Bowel sounds, abdomen soft.  Moderate distention. Moderate 
tenderness to palpation in mid-epigastrum.  No organomegaly. 
Neuro: AAOx3.  PEERLA, EOMI, tongue midline, face symmetric. 
Moving 
___. 
Extremities: WWP.  Radial and DP pulses 2+ bilaterally.  No 
edema. ROM intact. 

 
Pertinent Results:
Admission Labs:
___ 12:09AM BLOOD WBC-11.5* RBC-3.59* Hgb-12.5 Hct-34.8* 
MCV-97 MCH-34.8* MCHC-36.0* RDW-12.6 Plt ___
___ 12:09AM BLOOD Neuts-91.3* Lymphs-6.6* Monos-1.7* 
Eos-0.3 Baso-0.1
___ 12:09AM BLOOD ___ PTT-31.5 ___
___ 12:09AM BLOOD Glucose-114* UreaN-8 Creat-0.5 Na-137 
K-3.8 Cl-111* HCO3-22 
___ 12:09AM BLOOD ALT-11 AST-32 AlkPhos-50 Amylase-429* 
TotBili-0.6
___ 12:09AM BLOOD Lipase-411*
___ 12:09AM BLOOD Albumin-2.2* Calcium-6.6* Phos-1.5* 
Mg-2.1
___ 12:09AM BLOOD Triglyc-118
___ 01:29AM BLOOD Type-ART Temp-37.8 Rates-14/ Tidal V-450 
PEEP-5 FiO2-60 pO2-126* pCO2-36 pH-7.38 calTCO2-22 Base XS--2 
-ASSIST/CON Intubat-INTUBATED
  
Discharge Labs:
___ 08:05AM BLOOD WBC-9.1 RBC-3.76* Hgb-12.4 Hct-36.8 
MCV-98 MCH-32.9* MCHC-33.7 RDW-13.2 Plt ___
___ 08:05AM BLOOD Glucose-106* UreaN-11 Creat-0.6 Na-141 
K-5.1 Cl-102 HCO3-29 
___ 08:05AM BLOOD ALT-44* AST-35 LD(LDH)-420* AlkPhos-65 
Amylase-106* TotBili-0.4
___ 08:05AM BLOOD Lipase-146*
  
Studies:
___ Portable KUB IMPRESSION:
1. Limited assessment of the lung bases, recommend correlation 
with dedicated chest radiographs performed same day from ___.
2. Technically limited abdominal radiograph demonstrates 
prominent gaseous
loops of bowel in mid-abdomen. If obstruction of concern, 
dedicated supine
and erect radiographs with improved positioning can be obtained.
      
___ CXR - IMPRESSION: AP chest reviewed in the absence of 
prior chest radiographs: 
Examination marked semi-upright has an appearance suggesting 
essentially
supine positioning, and moderate right and moderate to large 
left pleural
effusion, responsible for left lower lobe atelectasis. The heart 
size is
normal and mediastinal veins are distended, reflecting supine 
positioning andvolume overload. ET tube in standard placement, 
nasogastric tube tip in the region of the pylorus.
  
___ CXR, PA & LAT - FINDINGS: The patient has been extubated. 
The NGT has been removed. 
Reduced effusions are seen bilaterally. Comparing the frontal 
view, although residual effusions are present, left greater than 
right. Some left basilar atelectasis is seen, but there is no 
patchy consolidation. Pulmonary vascular markings, cardiac 
silhouette and mediastinal contours are normal. 
IMPRESSION: Improving but persistent effusions.
  
___ RUQ ultrasound - IMPRESSION:
1. Mildly distended gallbladder without evidence of gallstones. 
No definite
sonographic evidence of acute cholecystitis.
2. Edematous heterogeneous pancreas. Given the heterogeneous 
appearance,
pancreatic necrosis should be considered and full evaluation 
with contrast
enhanced CT is advised.
3. A focus of high attenuation seen on the outside hospital CT 
near the
ampulla of Vater is not imaged on the current ultrasound, likely 
related to
differences in modality.
   
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with hypothyroidism and 
frequent alcohol use who was transfered from an outside hospital 
with acute pancreatitis and respiratory failure.  
  
# Acute pancreatitis: The patient's lipase and abominal pain 
initially improved, however, she continued to have mild 
epigastric abdominal pain and her lipase started to trend upward 
on hospital day 5.  Per the recommendation of the general 
surgery team that was following, GI was consulted for 
consideration of ERCP vs. further imaging given that OSH imaging 
showed necrosis in the pancreatic tail, a pseudocyst in the head 
of the pancreas (near the SMA), and a non-obstructing stone in 
the ampulla of vater.  The patient was taken for ERCP, 
spincterotomy was performed, and several stones and biliary 
sludge were removed.  The patient's abdominal pain improved and 
her lipase subsequently began to trend downward again.  She is 
scheduled to have a cholecystectomy approximately two weeks 
after discharge and follow-up with GI for further pancreatic 
imaging as well.  A CA ___ level was drawn while the patient 
was in house and will be followed-up when the patient returns 
for her pancrease-related follow-up appointments.  
     
# Aspiration/hospital-acquired pneumonia: The patient vomited 
during intubation at the outside hospital.  Reviewing her OSH 
images, it appears that she had a LLL effusion, likely secondary 
to pancreatitis, prior to intubation, and then developed a 
right-sided consolidation post-intubation, likely from 
aspiration of vomitus.  She was initially treated with 
vancomycin, zosyn, and levoquin.  The latter was dropped on 
transfer to the medical floor, and the vancomycin was dropped 
when the patient's MRSA screen returned as negative.  She was 
continued on zosyn until the day prior to discharge.  The 
patient was successfully extubated on ___.
      
# ETOH abuse:  The patient was extensively counselled by the 
medical team as well as social work regarding the contribution 
of alcohol consumption to pancreatitis and to help her 
strategize to identify ways to maintain sobriety on discharge.  
She was initially placed on a CIWA scale, but required minimal 
benzos initially.  She was also given vitamin supplementation.
  
 
Medications on Admission:
Medications on transfer:  
CTX 1gm daily  
MVI  
Levothyroxine 50mcg daily  
Ativan PRN  
Flagyl 500mg q8h prn  
Protonix 40mg IV q12h  
Propofol gtt  
Saline 500cc/hr  
Dilaudid prn  
    
Medications at home:  
Synthroid 50mcg daily  

 
Discharge Medications:
1. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Tablet(s) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Acute pancreatitis
Pulmonary effusion
Aspiration Pneumonia
 
Secondary Diagnosis:
Hypothyroidism

 
Discharge Condition:
Vital signs stable, afebrile, minimal abdominal pain.

 
Discharge Instructions:
You came to ___ with severe upper abdominal 
pain, and breathing problems. Blood tests and CT imaging showed 
that you had acute pancreatitis, causing pain in the abdomen.  A 
pulmonary effusion (fluid in the lung) and aspiration pneumonia 
was the cause of your breathing difficulties.  You have 
phelbitis in your right arm from the IVs.  The swelling and pain 
should resolve with time.  You can use warm compresses for 
comfort.  
  
To avoid future episodes of pancreatitis, it is important that 
you avoid drinking alcohol.  There are many programs available, 
including AA.  If you would like referrals for sobriety, please 
speak with your primary care physician.  
  
You will need to follow up with the general surgery service (Dr. 
___ in 2 weeks as an outpatient for removal of the 
gallbladder, and with Dr. ___ from the GI service in 3 
weeks for repeat imaging (a technique called MRCP), and 
evaluation of the pancreas.  
   
There are no changes to your home medications. 
   
Call your physician or return to the hospital if you have new 
pain in the upper abdomen, or if you have nausea/vomiting, 
severe diarrhea, dizzyness, shortness of breath, heart 
palpitations, high fevers, or any other concerning symptoms.
 
Followup Instructions:
___